US09034866B2
Synthesis of (R)-10-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure E with the exceptions of using Pd(PPh3)4 in DMSO, 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to yield the titled compound as a yellow solid (21 mg, 19%).

reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
reactant | 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC2=C3C=CC=C2)C)C1 | C21H18BrN5O2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-10-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 21 mg, 19% | O[C@@]1(C(N(CC1)C)=O)C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC2=C3C=CC=C2)C)C1 | C28H26N6O4
